US09029536B2
A) 2-[4-(Methoxymethoxy)phenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane
NaH (60% in oil, 4.00 g) was added portionwise at 0° C. to a solution of 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (11.00 g) in DMF (125 mL). After stirring for 10 min, MOMCl (7.60 mL) was added dropwise, and the mixture was stirred for 1 h. The reaction mixture was poured into water and extracted with AcOEt. The extract was washed with water and brine, dried over MgSO4, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/AcOEt) to give the title compound (8.86 g).

reactant | NaH | 4.00 g | [H-].[Na+]
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 11.00 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)O)C | C12H17BO3
reactant | MOMCl | 7.60 mL | C(OC)Cl | C2H5ClO
reactant | water | O | H2O
solvent | DMF | 125 mL | CN(C)C=O | C3H7NO
product | 2-[4-(Methoxymethoxy)phenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 8.86 g | COCOC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C14H21BO4
